US06355653B1
A suspension of 23.6 g (0.089 mol) 2-(phenylsulfonyl)-ethanimidic acid ethyl ester hydrochloride in 300 ml chloroform was treated with 98 ml 1N aqueous sodium hydoxide. 200 ml of a saturated aqueous sodiumbicarbonate solution was added and the mixture was extracted with chloroform. The extracts were combined and dried with sodium sulfate and the solvents were distilled off under reduced pressure. The resulting colorless oil was stirred together with 13.5 g (0.098 mol) nicotinic acid hydrazide in 500 ml dioxane over night at 50° C. The resulting precipitate was filtered off and dried. A yield of 15.5 g (55%) nicotinic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide was obtained as white solid, MS m/e (%): 319 (M+H+, 100).

reactant | 2-(phenylsulfonyl)-ethanimidic acid ethyl ester hydrochloride | 0.089 mol, 23.6 g | Cl.C(C)OC(CS(=O)(=O)C1=CC=CC=C1)=N
reactant | sodium hydoxide | 1N, 98 ml | [OH-].[Na+]
reactant | sodiumbicarbonate | 200 ml | C([O-])(O)=O.[Na+]
reactant | nicotinic acid hydrazide | 0.098 mol, 13.5 g | C(C1=CN=CC=C1)(=O)NN | C6H7N3O
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | nicotinic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide | yield of 15.5 g, 55% | NC(CS(=O)(=O)C1=CC=CC=C1)=NNC(C1=CN=CC=C1)=O | C14H14N4O3S
